US08703768B2
Step 2: 4-Nitro-1-phenyl-1H-pyrazole-3-carboxylic acid
To a stirred suspension of 4-nitro-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester (240 mg, 0.92 mmol) at rt in ethanol (3 ml) under an argon atmosphere was added 1 N NaOH (1.8 ml). The mixture was stirred for 2 hrs. 3 N HCl was added until pH˜2 was reached. Upon addition of H2O (˜2 ml), the product precipitated out. It was collected by filtration, washed with H2O and dried. Off-white solid (184 mg, 86%).

reactant | 4-nitro-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester | 0.92 mmol, 240 mg | C(C)OC(=O)C1=NN(C=C1[N+](=O)[O-])C1=CC=CC=C1 | C12H11N3O4
reactant | NaOH | 1 N, 1.8 ml | [OH-].[Na+]
reactant | HCl | 3 N | Cl | ClH
reactant | H2O | ˜2 ml | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-Nitro-1-phenyl-1H-pyrazole-3-carboxylic acid | [N+](=O)([O-])C=1C(=NN(C1)C1=CC=CC=C1)C(=O)O | C10H7N3O4
